US07384934B2
(S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 6,7-difluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (876.9 mg, 3.05 mmol), (S)-2-(2-methoxy-ethyl)-piperazine (1.32 g, 9.16 mmol), DMSO (3.0 ml), and toluene (12.0 ml). Stir and heat the mixture at 105° C. After 63 hours, cool the mixture to ambient temperature. Dilute the mixture with ethyl acetate and wash the organic layer with 1N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using a gradient of dichloromethane to dichloromethane/methanol (85:15) to give 561.6 mg (49%) of the title compound: mass spectrum (ion spray): m/z=379.1 (M+1).

reactant | 6,7-difluoro-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 3.05 mmol, 876.9 mg | Cl.FC=1C(=CC2=C(NC=3SC=CC3C(=N2)N)C1)F
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 9.16 mmol, 1.32 g | COCC[C@@H]1NCCNC1 | C7H16N2O
reactant | DMSO | 3.0 ml | CS(=O)C | C2H6OS
reactant | toluene | 12.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-6,7-Difluoro-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-4H-3-thia-4,9-diaza-benzo[f]azulene | 561.6 mg, 49% | FC=1C(=CC2=C(NC=3SC=CC3C(=N2)N2C[C@@H](NCC2)CCOC)C1)F | C18H20F2N4OS
